US07790770B2
(R)-prop-1-en-2-yl 1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylcarbamate (15 mg, 0.029 mmol) and 2-aminothiazole (8.2 mg, 0.082 mmol, 2.8 eq), and N-methylpyrrolidine (0.9 μl, 0.3 eq) were stirred in THF (0.3 mL) in a microwave vial. The reaction mixture was heated at 150° C. for 20 min under microwave irradiation. After cooling, the solvent was evaporated. The residue was purified by reverse phase HPLC (20-90% CH3CN in H2O with 0.1% TFA) to give pure (R)-1-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)-3-(thiazol-2-yl)urea as white solids (6.5 mg, yield: 40.6%). 1H NMR (400 MHz, CDCl3-D) δ ppm 7.29 (m, 1H), 7.23-7.18 (m, 3H), 7.16 (t, J=8.0 Hz, 2H), 7.02 (t, J=8.5 Hz, 2H), 6.94-6.89 (m, 4H), 6.71 (d, J=6.82 Hz, 2H), 5.86 (tt, J=47.1, 2.9 Hz, 1H), 3.84-3.75 (m, 2H); LC-MS (ESI) 552.28 (M+H), retention time=4.12 min (10-90% MeOH in H2O with 0.1% TFA in a 4-min run).

reactant | (R)-prop-1-en-2-yl 1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylcarbamate | 0.029 mmol, 15 mg | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)NC(OC(=C)C)=O | C26H21F6NO3
reactant | 2-aminothiazole | 0.082 mmol, 8.2 mg, 2.8 eq | NC=1SC=CN1 | C3H4N2S
reactant | N-methylpyrrolidine | 0.9 μl, 0.3 eq | CN1CCCC1 | C5H11N
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | (R)-1-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)-3-(thiazol-2-yl)urea | 6.5 mg, yield: 40.6% | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)NC(=O)NC=1SC=CN1 | C26H19F6N3O2S
